### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2026-03-31

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Archive/Imo/Imo2024Q5.lean [hunk 1]
```diff
@@ -778,9 +778,9 @@ lemma path1_firstMonster_of_not_edge (hN : 2 ≤ N) {m : MonsterData N} (hc₁0
     (hc₁N : (m (row1 hN) : ℕ) ≠ N) :
     (path1 hN (m (row1 hN))).firstMonster m = none ∨
       (path1 hN (m (row1 hN))).firstMonster m =
-        some (⟨2, by lia⟩, ⟨(m (row1 hN) : ℕ) - 1, by lia⟩) := by
+        some (⟨2, by lia⟩, ⟨(m (row1 hN) : ℕ) - 1, by omega⟩) := by
```
Comment (kim-em) [inline Archive/Imo/Imo2024Q5.lean:781]: We're aware of some regressions in `lia` after leanprover/lean4#13166, and are investigating.

File: Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean [hunk 2]
```diff
@@ -366,7 +366,7 @@ theorem map'_comp {M₁ M₂ M₃ : ModuleCat.{v} R} (l₁₂ : M₁ ⟶ M₂) (
   induction x using TensorProduct.induction_on with
   | zero => rfl
   | tmul => rfl
-  | add _ _ ihx ihy => grind
+  | add _ _ ihx ihy => erw [LinearMap.map_add, LinearMap.map_add]; grind
```
Comment (kim-em) [inline Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean:369]: `grind` is now less willing to partake in defeq abuse. :-)

File: Mathlib/Data/Fin/VecNotation.lean [hunk 3]
```diff
@@ -413,7 +413,9 @@ theorem vecAlt1_vecAppend (v : Fin (n + 1) → α) :
       simp only [Nat.mod_add_mod,
         Nat.mod_eq_sub_mod h, show 1 % (n + 2) = 1 from Nat.mod_eq_of_lt (by lia)]
       refine (Nat.mod_eq_of_lt ?_).symm
-      lia
+      #adaptation_note /-- After leanprover/lean4#13166, the `grind` tactic was timing out here.
+      the `lia` tactic fails here. -/
```
Comment (kim-em) [inline Mathlib/Data/Fin/VecNotation.lean]:
```suggestion
      #adaptation_note /-- After leanprover/lean4#13166, the `lia` tactic was timing out here. -/
```

File: Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean:369]: If it's clear that the problem is because of defeq abuse, e.g. the fix uses `erw`, I don't think we need an adaptation note.

But if it's not clear, I've added one.

**Comment by kim-em** [comment]
bors merge

**Comment by kim-em** [comment]
bors p=100

bors merge

**Comment by kim-em** [comment]
bors merge

**Comment by Rob23oba** [comment]
bors merge

**Comment by bryangingechen** [comment]
bors r+
bors d=@rob23oba
